US08492582B2
To a solution mixture of the obtained benzyl 2-(benzyloxy)-5-(piperidin-1-yl)benzoate (2.2 g) in dioxane (11 mL), ethyl acetate (17 mL), and methanol (5.5 mL), 10% palladium-carbon (1.1 g) was added, followed by stirring under a hydrogen atmosphere at room temperature for 2 hours. Tetrahydrofuran was added to the reaction mixture, and the insoluble substance was removed by filtration. The solvent was evaporated under reduced pressure. Diisopropyl ether was added to the obtained residue, and the solid substance was collected by filtration to obtain 1.1 g of 2-hydroxy-5-(piperidin-1-yl)benzoic acid as a light yellow solid.

reactant | benzyl 2-(benzyloxy)-5-(piperidin-1-yl)benzoate | 2.2 g | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=C(C=C1)N1CCCCC1 | C26H27NO3
reactant | methanol | 5.5 mL | CO | CH4O
reactant | Tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dioxane | 11 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 17 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 1.1 g | [C].[Pd]
product | 2-hydroxy-5-(piperidin-1-yl)benzoic acid | 1.1 g | OC1=C(C(=O)O)C=C(C=C1)N1CCCCC1 | C12H15NO3
